US04362715
Triethanolamine:
SEQUESTRENE® Na2 (disodium EDTA): 0.05 pbw

reactant | SEQUESTRENE | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | disodium EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | Triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
